US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((6-(3-(methylamino)piperidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)ethanone trihydrochloride
To a suspension of tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)piperidin-3-yl)(methyl)carbamate (80 mg, 0.144 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (80 mg, 0.28 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). N2 gas was bubbled through the reaction mixture and the mixture was then heated at 80° C. for 2 h. The solution was allowed to cool to room temperature, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded a brown solid. This solid was dissolved in THF (3 mL), water (2 mL) and HCl (6 M in water, 2 mL, 12 mmol). The reaction mixture was heated at 65° C. for 3 h, cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (8 mL) and HCl (6 M in water, 1.0 mL, 6 mmol) was added. The resultant solution was concentrated to give the desired product (55.4 mg, 60%) as an orange solid. 1H NMR (500 MHz, MeOD) δ 9.30 (s, 1H), 8.29-8.21 (m, 2H), 8.06-8.00 (m, 2H), 7.83 (dd, J=9.1, 2.7 Hz, 1H), 7.30 (s, 2H), 7.30-7.26 (m, 1H), 4.47 (br s, 1H), 3.98 (d, J=13.4 Hz, 1H), 3.63 (br s, 1H), 3.50-3.40 (m, 1H), 3.37-3.32 (m, 1H), 2.80 (s, 3H), 2.80 (s, 3H), 2.30-2.23 (m, 1H), 2.03-1.95 (m, 1H), 1.88-1.69 (m, 2H). ESI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC>99% (AUC), tR=10.17 min.

reactant | tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)piperidin-3-yl)(methyl)carbamate | 0.144 mmol, 80 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CCC1)N(C(OC(C)(C)C)=O)C)Br | C27H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.28 mmol, 80 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 12 mmol, 6 M, 2 mL | Cl | ClH
reactant | HCl | 6 mmol, 6 M, 1.0 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((6-(3-(methylamino)piperidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)ethanone trihydrochloride | 55.4 mg, 60% | Cl.Cl.Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=CC1)N1CC(CCC1)NC | InChI=1S/C28H27Cl2N5O2.3ClH/c1-16(36)22-14-32-25-7-5-17(18-11-23(29)28(37)24(30)12-18)10-21(25)27(22)34-19-6-8-26(33-13-19)35-9-3-4-20(15-35)31-2;;;/h5-8,10-14,20,31,37H,3-4,9,15H2,1-2H3,(H,32,34);3*1H
